US06008213
a) tert-Butyl 4-[N-(tert-Butoxycarbonyl)-N-(methoxycarbonyl)aminomethyl]-3-nitrobenzoate
To a solution of tert-butyl 4-bromomethyl-3-nitrobenzoate (2.27 g, 7.2 mmol) (Int. J. Peptide Res. 1990, 36, 31) in dimethylformamide (25 mL) was added a suspension of potassium tert-butyl methyl iminodicarboxylate (J.C.S. Perkin I 1977, 1088-90) (1.56 g, 7.3 mmol) in dimethylformamide (20 mL). The dark brown solution was stirred 1 h and poured into water (400 mL), extracted with ethyl acetate (3×100 mL) and the combined organic layers were washed with water (5×75 mL), dried (sodium sulfate) and concentrated to give a pale orange oil which was purified by flash chromatography on silica gel (20% ethyl acetate/hexane) to give the title compound (2.15 g, 73%): 1H NMR (400 MHz, CDCl3) δ 8.65 (s, 1H), 8.2 (d, 1H), 7.45 (d, 1H), 5.3 (s, 2H), 3.8 (s, 3H), 1.6 (s, 9H), 1.45 (s, 9H).

reactant | tert-butyl 4-bromomethyl-3-nitrobenzoate | 7.2 mmol, 2.27 g | BrCC1=C(C=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C12H14BrNO4
reactant | potassium tert-butyl methyl iminodicarboxylate | 7.3 mmol, 1.56 g | N(C(=O)OC)C(=O)OC(C)(C)C.[K]
reactant | water | 400 mL | O | H2O
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | tert-Butyl 4-[N-(tert-Butoxycarbonyl)-N-(methoxycarbonyl)aminomethyl]-3-nitrobenzoate | 2.15 g, 73% | C(C)(C)(C)OC(=O)N(C(=O)OC)CC1=C(C=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C19H26N2O8
